US06541630B1
3,4-Dihydrothieno[3,4-d]pyrimidin-4-one (compound 1f)
A stirred mixture of methyl 4-formamido-3-thenoate (see below) (3.39 g) and ammonium formate (3.4 g) in formamde (5 ml) was heated at 140° C. for 7 hours. On cooling, the mixture was poured into water, and the mixture filtered to give a solid which was washed with water followed by light petroleum (b.p. 60-80° C.) and air dried to give the title product, m.p. 275-278° C.

reactant | methyl 4-formamido-3-thenoate | 3.39 g | C(=O)NC=1C(=CSC1)C(=O)OC | C7H7NO3S
reactant | ammonium formate | 3.4 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
product | 3,4-Dihydrothieno[3,4-d]pyrimidin-4-one | N1=CNC(C=2C1=CSC2)=O | C6H4N2OS
